US09382188B2
B) 3-cyclopropyl-3-(2-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)pyridin-4-yl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(2-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)pyridin-4-yl)propanoate (71 mg) in THF (1.0 mL) and methanol (0.50 mL) was added 1N aqueous sodium hydroxide solution (1.0 mL), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added 1N hydrochloric acid (1.0 mL) at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After silica gel filtration, the solvent was evaporated under reduced pressure to give the title compound (62 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(2-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)pyridin-4-yl)propanoate | 71 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=NC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C32H38FNO4
reactant | sodium hydroxide | 1N, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.0 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.50 mL | CO | CH4O
product | 3-cyclopropyl-3-(2-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)pyridin-4-yl)propanoic acid | 62 mg | C1(CC1)C(CC(=O)O)C1=CC(=NC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H34FNO4
